US05124478
Methyl 3-(2,4-dimethoxyphenyl)propionate
113.8 g of methyl 2,4-dimethoxycinnamate are dissolved in 1.5 1 of methanol while heating and are hydrogenated on 5 g of catalyst (10% Pd/C). The catalyst is removed by filtration and the filtrate is concentrated. 113 g of an oil remain and are immediately used in the subsequent Friedel-Crafts acylation.

reactant | methyl 2,4-dimethoxycinnamate | 113.8 g | COC1=C(C=CC(=O)OC)C=CC(=C1)OC | C12H14O4
solvent | methanol | CO | CH4O
product | Methyl 3-(2,4-dimethoxyphenyl)propionate | COC1=C(C=CC(=C1)OC)CCC(=O)OC | C12H16O4
